US08686007B2
5-{[2-(4-Fluorophenyl)-2-methylpropyl]amino}-1,2,4-thiadiazole-3-carbonitrile.
5-Bromo-N-(2-(4-fluorophenyl)-2-methylpropyl)-1,2,4-thiadiazol-5-amine (635 mg, 1.92 mmol, 1.0 equiv) and CuCN (224 mg, 2.5 mmol, 1.3 equiv) were added to a microwave vial equipped with a stirbar. A septum was affixed to the vial, and the vial was purged with nitrogen for ˜5 min. DMF (2.5 mL) was then added, and the vial was sealed and heated for 20 min at 120° C. in a microwave. The reaction mixture was diluted with EtOAc and washed with sat'd. aq. NaHCO3 and brine. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. Purification by reverse phase HPLC provided the title compound (47 mg, 9%). m/z=275.0 [M−H]−.

reactant | 5-Bromo-N-(2-(4-fluorophenyl)-2-methylpropyl)-1,2,4-thiadiazol-5-amine | 1.92 mmol, 635 mg, 1.0 equiv | BrC1(N=CNS1)NCC(C)(C)C1=CC=C(C=C1)F | C12H15BrFN3S
reactant | CuCN | 2.5 mmol, 224 mg, 1.3 equiv | C(#N)[Cu]
product | 5-{[2-(4-Fluorophenyl)-2-methylpropyl]amino}-1,2,4-thiadiazole-3-carbonitrile | 47 mg, 9% | FC1=CC=C(C=C1)C(CNC1=NC(=NS1)C#N)(C)C | C13H13FN4S
